US05272128
Diisopropyl P-[[(2-(trifluoromethyl)phenyl)sulfonyloxy]methyl]phosphonate (Compound 143)
A solution of 30 ml of ether, 13.3 g of diisopropyl P-(hydroxymethyl)phosphonate, prepared in Example 17, and 10.5 ml of triethylamine was added dropwise over 60 minutes to a solution of 15.35 g of 2-(trifluoromethyl)benzenesulfonyl chloride and 50 ml of ether. After the mild exotherm, the reaction was allowed to stir at room temperature overnight and then was diluted with 200 ml of ethyl acetate, the ethyl acetate solution washed with two 100 ml portions of water, dried with magnesium sulfate, filtered, and concentrated to yield 16.3 g of the desired product as an oil.

reactant | ether | 30 ml | CCOCC | C4H10O
reactant | diisopropyl P-(hydroxymethyl)phosphonate | 13.3 g | OCP(OC(C)C)(OC(C)C)=O | C7H17O4P
reactant | triethylamine | 10.5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(trifluoromethyl)benzenesulfonyl chloride | 15.35 g | FC(C1=C(C=CC=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Diisopropyl P-[[(2-(trifluoromethyl)phenyl)sulfonyloxy]methyl]phosphonate | 16.3 g | FC(C1=C(C=CC=C1)S(=O)(=O)OCP(OC(C)C)(OC(C)C)=O)(F)F | C14H20F3O6PS
